US04060603
L-Pyroglutamyl-L-histidyl-trans-3-ethyl-dl-prolineamide trans-3-Ethyl-dl-prolineamide (288 mg, 2 mM), benzyloxycarbonyl-L-pyroglutamyl-L-histidine (822 mg, 2 mM), and hydroxybenzotriazole (550 mg, 4 mM) were dissolved in dimethylformamide (6 ml), the solution cooled to 0°, dicyclohexylcarbodiimide (480 mg, 2.2 mM) added and the mixture stirred for 18 hrs. The mixture was then filtered and the filtrate evaporated. The resulting oil was dissolved in tetrahydrofuran - water (1 : 1, 80 ml), palladium on carbon (10%, 60 mg) added and the solution hydrogenated for 4 hrs at atmospheric pressure. The catalyst was then removed by filtration and the filtrate evaporated to dryness. The resulting gum was distributed between ethyl acetate (50 ml) and water (80 ml). The aqueous phase was separated, evaporated to dryness and the residue dissolved in aqueous solution containing 1% acetic acid/0.05% pyridine. This was applied to a column of S.P. - Sephadex C 25 resin (pyridinium form) which was equilibrated with aqueous 1% acetic/0.05% pyridine. The column was eluted by a gradient technique using aqueous 1% acetic acid/1% pyridine via a 500 ml spherical mixing vessel filled with aqueous 1% acetic acid/0.05% pyridine. The fractions containing product (as detected by t.l.c) were combined and evaporated to yield L-pyroglutamyl-L-histidyl-trans-3-ethyl-dl-prolineamide (205 mg) as a white amorphous solid m.p. 156°-160°. RF 3A 0.27, RF 3B 0.50. Amino acid analysis after acidic hydrolysis gave the following ratios: Histidine 0.95 glutamic acid 0.99 3-ethyl proline 1.06.

reactant | L-Pyroglutamyl-L-histidyl-trans-3-ethyl-dl-prolineamide trans-3-Ethyl-dl-prolineamide | 2 mM, 288 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@@H](C(=O)N)[C@@H](CC1)CC.C(C)[C@H]1[C@@H](NCC1)C(=O)N
reactant | benzyloxycarbonyl-L-pyroglutamyl-L-histidine | 2 mM, 822 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C19H20N4O6
reactant | hydroxybenzotriazole | 4 mM, 550 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2.2 mM, 480 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | L-pyroglutamyl-L-histidyl-trans-3-ethyl-dl-prolineamide | 205 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@@H](C(=O)N)[C@@H](CC1)CC | C18H26N6O4
